US05266570
a. 2-Chloroanthracene
A stirred suspension of 2-chloroanthraquinone (1260 g, 5.19 mol) in concentrated ammonium hydroxide (7.5 L) and water (2.5 L) was warmed to 40° C. Zinc dust (845 g, 12.93 mol) was added in one portion, changing the color to deep red. The mixture was stirred for 45 min at 50° C., then cautiously treated with a second portion of zinc dust (845 g). After the addition, the stirred mixture was heated gradually over 3 h to 90° C., then maintained at 90°-95° C. for 2 h (red color dissipated). TLC analysis (silica gel; hexane:methylene chloride (3:1)) showed complete conversion of the anthraquinone (Rf 0.35) to the desired anthracene (Rf 0.80). The reaction mixture was stirred overnight as it cooled to room temperature. The cooled mixture was treated with methylene chloride (4 L), stirred for 2 h, then filtered through Celite to remove the excess zinc. The filter cake was washed with methylene chloride (6×1 L). The methylene chloride layer was separated from the aqueous, then treated with 6N hydrochloric acid (3 L) and stirred for 2 h. A first crop of 2-chloroanthracene was collected by filtration and washed with water (4×1 L). Vacuum drying afforded a light yellow crystalline product weighing 804.6 g (mp 220°-221° C.). The methylene chloride portion of the filtrate was concentrated in vacuo to 10% of its original volume. This produced an additional 158.5 g of the desired compound for a total yield of 963.1 g (87.2%). NMR (CDCl3) 8.39 (s, 1H), 8.30 (s, 1H), 7.96 (s, 4H), 7.49 (s, 2H), 7.36 (d, J=8.7 Hz, 1H).

reactant | 2-chloroanthraquinone | 5.19 mol, 1260 g | ClC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7ClO2
reactant | hexane methylene chloride | CCCCCC.C(Cl)Cl
reactant | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
reactant | anthracene | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
solvent | ammonium hydroxide | 7.5 L | [OH-].[NH4+]
solvent | water | 2.5 L | O | H2O
catalyst | Zinc | 12.93 mol, 845 g | [Zn] | Zn
catalyst | zinc | 845 g | [Zn] | Zn
solvent | methylene chloride | 4 L | C(Cl)Cl | CH2Cl2
product | 2-Chloroanthracene | 158.5 g | ClC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C14H9Cl
